US05719166
b. 2-Chloroanthracene
A stirred suspension of 2-chloroanthraquinone (1260 g, 5.19 moles) in concentrated ammonium hydroxide (7.5 L) and water (2.5 L) was warmed to 40° C. Zinc dust (845 g, 12.93 moles) was added in one portion, changing the color to deep red. The mixture was stirred for 45 min at 50° C., then cautiously treated with a second portion of zinc dust (845 g). After the addition, the stirred mixture was heated gradually over 3 h to 90° C., then maintained at 90°-95° C. for 2 h (red color dissipated). TLC analysis [silica gel/hexane:methylene chloride (3:1)] showed complete conversion of the anthraquinone (Rf =0.35) to the desired anthracene (Rf =0.80). The reaction mixture was stirred overnight as it cooled to room temperature. The cooled mixture was treated with methylene chloride (4 L), stirred for 2 h, then filtered through Celite to remove the excess zinc. The filter cake was washed with methylene chloride (6×1 L). The methylene chloride layer was separated from the aqueous, then treated with 6N hydrochloric acid (3 L) and stirred for 2 h. A first crop of 2-chloroanthracene was collected by filtration and washed with water (4×1 L). Vacuum drying afforded a light yellow crystalline product weighing 804.6 g (mp 220°-221° C.). The methylene chloride portion of the filtrate was concentrated in vacuo to 10% of its original volume. This produced an additional 158.5 g of the desired compound for a total yield of 963.1 g (87.2%). 1H NMR (CDCl3): δ8.39 (s, 1H), 8.30 (s,1H), 7.96 (s, 4H), 7.49 (s, 2H), 7.36 (d, J=8.7 Hz, 1H).

reactant | 2-chloroanthraquinone | 5.19 moles, 1260 g | ClC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7ClO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
reactant | methylene chloride | 4 L | C(Cl)Cl | CH2Cl2
solvent | ammonium hydroxide | 7.5 L | [OH-].[NH4+]
solvent | water | 2.5 L | O | H2O
catalyst | Zinc | 12.93 moles, 845 g | [Zn] | Zn
catalyst | zinc | 845 g | [Zn] | Zn
product | 2-Chloroanthracene | 158.5 g | ClC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C14H9Cl
